US04871852
1-(2-fluorocyclopropyl)-6,8-difluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid (I; R1 =R3 =H, R2 =CH3, X1 =X2 =X3 =F)
In 3 ml of dimethyl sulfoxide was dissolved 60 mg of 1-(2-fluorocyclopropyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. After addition of 100 mg of N-methylpiperazine, the mixture was stirred at 110° C. for 1 hour. The solvent was removed, and the residue was distributed between chloroform and water. The chloroform layer was dried, and the solvent was removed by distillation. The residue was crystallized from chloroform-ethanol to yield 25 mg of the product. m.p. 251°-253° C. (dec.)

reactant | 1-(2-fluorocyclopropyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 60 mg | FC1C(C1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H7F4NO3
reactant | N-methylpiperazine | 100 mg | CN1CCNCC1 | C5H12N2
solvent | dimethyl sulfoxide | 3 ml | CS(=O)C | C2H6OS
product | 1-(2-fluorocyclopropyl)-6,8-difluoro-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxoquinoline-3-carboxylic acid | 25 mg | FC1C(C1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)C)F)=O)C(=O)O | C18H18F3N3O3
